US08278335B2
Step 3. Methyl 2-(chloromethyl)pyridine-3-carboxylate 1-oxide
Methyl 2-(chloromethyl)pyridine-3-carboxylate (20.73 g, 112 mmol) was taken up in dichloromethane (225 mL) and mCPBA (27.5 g, 123 mmol) was added. The resulting solution was stirred at room temperature overnight. Saturated aqueous sodium bicarbonate was added and the products extracted into dichloromethane (2×). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by flash chromatography (silica, 0-20% methanol/ethyl acetate) gave the title compound as a white solid. 1H NMR (d6-DMSO, 600 MHz) δ 8.50 (dd, 1H), 7.75 (dd, 1H), 7.53 (dd, 1H), 5.07 (s, 2H), 3.86 (s, 3H).

reactant | Methyl 2-(chloromethyl)pyridine-3-carboxylate | 112 mmol, 20.73 g | ClCC1=NC=CC=C1C(=O)OC | C8H8ClNO2
reactant | mCPBA | 123 mmol, 27.5 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 225 mL | ClCCl | CH2Cl2
product | Methyl 2-(chloromethyl)pyridine-3-carboxylate 1-oxide | ClCC1=[N+](C=CC=C1C(=O)OC)[O-] | C8H8ClNO3
